US06313122B1
D. 2-(4-tert-Butylbenzoylamino)-5-amino-N-(4-methoxyphenyl)benzamide
A mixture of 2-(4-tert-butylbenzoylamino)-5-nitro-N-(4-methoxyphenyl)benzamide (895 mg, 2.00 mmol), 10% palladium-on-carbon (90 mg) and ethyl acetate (5 ml) in ethanol (5 mL) was hydrogenated at one atmospheric pressure for 5 h. The reaction was degassed and a suspension of 10% palladium-on-carbon (45 mg) and ethyl acetate (3 mL) was added. This mixture was hydrogenated for 2 days at one atmosphere. The reaction was filtered through diatomaceous earth assisted by ethyl acetate/ethanol washes. The filtrate was concentrated in vacuo and chromatographed (silica gel, 10% ethyl acetate/90% methylene chloride to 35% ethyl acetate/65% methylene chloride) to give 487 mg (58%) of the title compound as a white solid; mp 212-214.5° C.

reactant | 2-(4-tert-butylbenzoylamino)-5-nitro-N-(4-methoxyphenyl)benzamide | 2.00 mmol, 895 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=C(C=C2)[N+](=O)[O-])C=C1 | C25H25N3O5
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium-on-carbon | 90 mg | [Pd] | Pd
product | 2-(4-tert-Butylbenzoylamino)-5-amino-N-(4-methoxyphenyl)benzamide | 487 mg, 58% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=C(C=C2)N)C=C1 | C25H27N3O3
